US07662771B2
5-[5-(5-Chloro-2-hydroxy-phenyl)-oxazol-2-yl]-pentanoic acid
Dissolve 5-[5-(5-chloro-2-hydroxy-phenyl)-oxazol-2-yl]-pentanoic acid methyl ester (3.26 g, 10.52 mmol) in 50 mL of dioxane and add a solution of LiOH (1.2671 g, 50.91 mmol) in 25 mL of water to it. Allow the reaction to stir at ambient temperature for 18 hours. Acidify the reaction with 5N HCl and concentrate the reaction mixture in vacuo to remove the dioxane. Extract the aqueous residue with EtOAc (3×). Dry the combined organic layers with MgSO4. Filter off the drying agent and concentrate in vacuo to afford a crude residue. Triturate the residue in cold EtOAc. Collect the product via filtration to afford 1.8837 g of the titled product (60%): mass spectrum: m/z=296.1 (M+H).

reactant | 5-[5-(5-chloro-2-hydroxy-phenyl)-oxazol-2-yl]-pentanoic acid methyl ester | 10.52 mmol, 3.26 g | COC(CCCCC=1OC(=CN1)C1=C(C=CC(=C1)Cl)O)=O | C15H16ClNO4
reactant | LiOH | 50.91 mmol, 1.2671 g | [Li+].[OH-]
reactant | HCl | 5N | Cl | ClH
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | water | 25 mL | O | H2O
product | 5-[5-(5-Chloro-2-hydroxy-phenyl)-oxazol-2-yl]-pentanoic acid | 1.8837 g, 60% | ClC=1C=CC(=C(C1)C1=CN=C(O1)CCCCC(=O)O)O | C14H14ClNO4
